### PR TITLE
[Merged by Bors] - feat(GroupTheory/Subgroup): basic API for set normalizers

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
Since `@[to_additive]` [doesn't work](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/MulAut.20and.20to_additive/with/577355267) on `MulAut` (because `AddAut` wants to use multiplicative syntax) I've had to translate 2 theorems manually.

~~FWIW I think that `setNormalizer` should replace `normalizer`, as this old TODO says:~~
https://github.com/leanprover-community/mathlib4/blob/34ad346d5509066e2d41dc59c6a92a917ba55661/Mathlib/Algebra/Group/Subgroup/Defs.lean#L674
~~This will join `Subgroup.centralizer` which is already defined on sets rather than subgroups (and subgroups can use it thanks to their `SetLike`).~~
~~If you agree I'll create a separate PR that does it. Though it shouldn't block this PR.~~

- [x] depends on: #36852

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/Basic.lean [hunk 1]
```diff
@@ -321,6 +321,54 @@ variable (H)
 
 section Normalizer
 
+@[to_additive]
+theorem setNormalizer_empty : setNormalizer (∅ : Set G) = ⊤ :=
+  ext fun _ ↦ ⟨fun _ ↦ trivial, fun _ _ ↦ .rfl⟩
+
+@[to_additive]
+theorem normalizer_bot : (⊥ : Subgroup G).normalizer = ⊤ :=
+  ext fun _ ↦ ⟨fun _ ↦ trivial, fun _ _ ↦ by simp⟩
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Basic.lean]: This is a special case of `Subgroup.normalizer_eq_top`

File: Mathlib/Algebra/Group/Subgroup/Basic.lean [hunk 2]
```diff
@@ -321,6 +321,54 @@ variable (H)
...
+
+@[to_additive]
+theorem normalizer_top : (⊤ : Subgroup G).normalizer = ⊤ :=
+  ext fun _ ↦ ⟨fun _ ↦ trivial, fun _ _ ↦ .rfl⟩
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Basic.lean]: This is a special case of `Subgroup.normalizer_eq_top`

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean [hunk 3]
```diff
@@ -40,6 +39,12 @@ theorem mem_centralizer_iff_commutator_eq_one {g : G} {s : Set G} :
     g ∈ centralizer s ↔ ∀ h ∈ s, h * g * h⁻¹ * g⁻¹ = 1 := by
   simp only [mem_centralizer_iff, mul_inv_eq_iff_eq_mul, one_mul]
 
+@[to_additive]
+theorem mem_centralizer_iff_commutator_eq_one' {g : G} {s : Set G} :
+    g ∈ centralizer s ↔ ∀ h ∈ s, g * h * g⁻¹ * h⁻¹ = 1 := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Subgroup/Centralizer.lean]: You could use commutator notation here.

Comment (SnirBroshi) [reply Mathlib/GroupTheory/Subgroup/Centralizer.lean]: I thought about it but it's not imported (if you're referring to `⁅g, h⁆`) and I'm wary of import changes. Should I do it anyway?

Comment (tb65536) [reply Mathlib/GroupTheory/Subgroup/Centralizer.lean]: I would recommend it, except that the to_additive version is still blocked by #34784 for now.

File: Mathlib/GroupTheory/Subgroup/Centralizer.lean [hunk 4]
```diff
@@ -26,19 +27,31 @@ variable {H K : Subgroup G}
...
 
-@[to_additive]
 theorem mem_centralizer_iff_commutator_eq_one {g : G} {s : Set G} :
-    g ∈ centralizer s ↔ ∀ h ∈ s, h * g * h⁻¹ * g⁻¹ = 1 := by
-  simp only [mem_centralizer_iff, mul_inv_eq_iff_eq_mul, one_mul]
+    g ∈ centralizer s ↔ ∀ h ∈ s, ⁅h, g⁆ = 1 := by
+  simp only [commutatorElement_def, mem_centralizer_iff, mul_inv_eq_iff_eq_mul, one_mul]
+
+theorem _root_.AddSubgroup.mem_centralizer_iff_commutator_eq_zero {G : Type*} [AddGroup G] {g : G}
+    {s : Set G} : g ∈ AddSubgroup.centralizer s ↔ ∀ h ∈ s, h + g + -h + -g = 0 := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Subgroup/Centralizer.lean]: #34784 has been merged now, so you should be able to use commutation notation here

Comment (SnirBroshi) [reply Mathlib/GroupTheory/Subgroup/Centralizer.lean]: Thanks! I just started working on that before you wrote this :)

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by adomani** [comment]
Thanks!

bors merge
